US08383638B2
To a solution of 4-pyridin-2-ylpiperidin-4-ol dihydrochloride (0.415 g, 1.65 mmol) in 5 mL of dichloromethane was added triethylamine (0.58 mL, 4.1 mmol) and di-tert-butyl dicarbonate (0.361 g, 1.65 mmol). After 30 min, the reaction was treated with water and extracted 2× with dichloromethane. The combined organic fractions were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to provide tert-butyl 4-hydroxy-4-pyridin-2-ylpiperidine-1-carboxylate that gave a proton NMR spectra consistent with theory.

reactant | 4-pyridin-2-ylpiperidin-4-ol dihydrochloride | 1.65 mmol, 0.415 g | Cl.Cl.N1=C(C=CC=C1)C1(CCNCC1)O
reactant | triethylamine | 4.1 mmol, 0.58 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.65 mmol, 0.361 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-butyl 4-hydroxy-4-pyridin-2-ylpiperidine-1-carboxylate | OC1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C15H22N2O3
